US05990193
Cinnamylidene acetic acid was synthesized according to the method described in U.S. Pat. No. 3,257,664, the disclosure of which is incorporated herein by reference. In general, 104 gms of malonic acid (Aldrich), 126 ml of trans-cinnamaldehyde and 90 ml of pyridine were mixed and exposed to slight heating for complete solubilization of the reaction mixture. Piperidine (0.25 ml) was then added, and the mixture was allowed to stand at room temperature for approximately 26 hours. The reaction mixture was then refluxed at 115° C. for 18 hours. When the reaction was completed, the reaction mixture was allowed to cool to room temperature. In turn, the solution was poured into cold dilute (5 w/v %) hydrochloric acid. The resulting yellowish solid cake was washed repeatedly with deionized water, and the wet product was crystallized from ethyl alcohol to give cinnamylidene acetic acid (65.22 gms). The purity of cinnamylidene acetic acid was determined by 1HNMR and UV spectroscopy. 1HNMR (CDCl3 -TMS): δ=6.1 ppm (d, 2H), δ=6.9 ppm (t, 2H), δ=7.5 ppm (m, 5H). The --COOH proton could not be detected in the NMR spectrum, but the product of the esterification reaction between cinnamylidene acetic chloride and polyethylene glycol established its existence. UV (in dichloromethane): λmax =313 nm, ε=37,390 L3 mol-1 cm-1, λmax =250 nm, ε=1985 L3 mol-1 cm-1.

reactant | malonic acid | 104 gms | C(CC(=O)O)(=O)O | C3H4O4
reactant | trans-cinnamaldehyde | 126 ml | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | Piperidine | 0.25 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | cinnamylidene acetic acid | 65.22 gms | C(C=CC1=CC=CC=C1)=CC(=O)O | C11H10O2
